US08076329B2
A suspension of potassium carbonate (83 g) in a mixture of benzyl chloride (37 g), 3,5-dimethylpiperidine (30 g of acommercial mixture of cis and trans isomers) and N,N-dimethylformamide (200 mL) is stirred for 15 h at a temperature close to 60° C. The mixture is filtered, concentrated under reduced pressure and diluted in ethyl acetate. The organic phase is washed with water, dried over magnesium sulphate, concentrated under reduced pressure and purified by chromatography over silica gel with a mixture diethyl oxide/ligroin/triethylamine 20/80/1 as eluent to give 8 g of trans-1-benzyl-3,5-dimethylpiperidine as a colourless oil used without further purification.

reactant | potassium carbonate | 83 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dimethylpiperidine | 30 g | CC1CNCC(C1)C | C7H15N
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
reactant | benzyl chloride | 37 g | C(C1=CC=CC=C1)Cl | C7H7Cl
product | trans-1-benzyl-3,5-dimethylpiperidine | 8 g | C(C1=CC=CC=C1)N1C[C@H](C[C@@H](C1)C)C | C14H21N
